US04355037
3-(1-Benzoyloxy-4-piperidyl)-1,2-benzisoxazole
A suspension of 5.0 g of 3-(4-piperidyl)-1,2-benzisoxazole, 6 g of benzoyl peroxide and 6.8 g of potassium carbonate in 100 ml of benzene was stirred at room temperature for 18 hrs. The reaction was filtered and the solvent was removed under reduced pressure to give 7.5 g (97%) of product. A small amount was recrystallized once from acetone and three times from ethanol to give the analytical sample, mp, 156°-158°.

reactant | 3-(4-piperidyl)-1,2-benzisoxazole | 5.0 g | N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C12H14N2O
reactant | benzoyl peroxide | 6 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | potassium carbonate | 6.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-(1-Benzoyloxy-4-piperidyl)-1,2-benzisoxazole | 7.5 g, 97% | C(C1=CC=CC=C1)(=O)ON1CCC(CC1)C1=NOC2=C1C=CC=C2 | C19H18N2O3
